US06500847B2
A solution of pthlalazinone (1.00 g, 6.84 mmol), triphenylphosphine (1.79 g, 6.84 mmol) in THF (25 mL) was cooled to 0° C. and treated with 2-bromo ethanol (0.480 mL, 6.84 mmol) and diethyl azocarboxylate (1.07 mL, 6.84 mmol). After stirring 1 h at 0° C., the solution was warmed to room temperature and stirred for an additional 12 h. The resulting mixture was concentrated and purified by flash column chromatography (35% ethyl acetate-hexanes) to afford 1.40 g (81%) of bromo ethyl phthalazinone as a white solid. TLC: Rf 0.65 (40% ethyl acetate-hexane).

reactant | triphenylphosphine | 6.84 mmol, 1.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromo ethanol | 6.84 mmol, 0.480 mL | BrCCO | C2H5BrO
reactant | diethyl azocarboxylate | 6.84 mmol, 1.07 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | bromo ethyl phthalazinone | 1.40 g, 81% | BrCCC1=NNC(C2=CC=CC=C12)=O | C10H9BrN2O
